US05834478
17-Cyclopropylmethyl-4,5α-epoxy-14β-hydroxy-3-methoxy-6α-(N-methoxy-3,4-dichlorophenylacetamido)morphinan
A mixture of 17-cyclopropylmethyl-3,14β-dihydroxy-4,5α-epoxy-6α-(N-methoxy-3,4-dichlorophenylacetamido)morphinan (197 mg, 0.35 mmol), trimethylsilyldiazomethane (10% solution in CH2Cl2, 0.57 g, 0.5 mmol), diisopropylethylamine (65 mg, 0.5 mmol), methanol (0.2 ml), and acetonitrile (2 ml) was stirred at room temperature for 13 h. After evaporation of the solvent, the residual oil was purified by preparative thin layer chromatography (1 mm thick plate, CH2Cl2 /MeOH: 10/1) to give 47 mg of amorphous solid. This was purified again by preparative thin layer chromatography (1 mm thick plate, CH2Cl2 /MeOH: 10/1) to give 25 mg of amorphous solid as desired product.

reactant | 17-cyclopropylmethyl-3,14β-dihydroxy-4,5α-epoxy-6α-(N-methoxy-3,4-dichlorophenylacetamido)morphinan | 0.35 mmol, 197 mg | C1(CC1)CN1[C@H]2[C@@]3(CC[C@@H]([C@H]4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)N(C(CC1=CC(=C(C=C1)Cl)Cl)=O)OC)O | C29H32Cl2N2O5
reactant | trimethylsilyldiazomethane | 0.5 mmol, 0.57 g | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | diisopropylethylamine | 0.5 mmol, 65 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanol | 0.2 ml | CO | CH4O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 17-Cyclopropylmethyl-4,5α-epoxy-14β-hydroxy-3-methoxy-6α-(N-methoxy-3,4-dichlorophenylacetamido)morphinan | 47 mg | C1(CC1)CN1[C@H]2[C@@]3(CC[C@@H]([C@H]4[C@@]3(C=3C(=C(C=CC3C2)OC)O4)CC1)N(C(CC1=CC(=C(C=C1)Cl)Cl)=O)OC)O | C30H34Cl2N2O5
